US04634704
A mixture of 1.5 parts of 2-benzoxazolethiol, 4.6 parts of N-[1-(2-chloroethyl)-4-piperidinyl]-1-[(4-fluorophenyl)methyl]-1H-benzimidazol-2-amine, 4.2 parts of potassium carbonate and 120 parts of 2-propanone was stirred and refluxed overnight. The reaction mixture was evaporated and the residue was taken up in water. The product was extracted with dichloromethane. The extract was dried, filtered and evaporated. The residue was purified by column chromatography over silica gel using a mixture of trichloromethane and methanol (96:4 by volume) as eluent. The pure fractions were collected and the eluent was evaporated. The residue was crystallized from acetonitrile, yielding 2.5 parts (50%) of N-[1-[2-[(2-benzoxazolyl)thio]ethyl]-4-piperidinyl]-1-[(4-fluorophenyl)methyl]-1H-benzimidazol-2-amine; mp. 174.2° C. (compound 73).

reactant | 2-benzoxazolethiol | O1C(=NC2=C1C=CC=C2)S | C7H5NOS
reactant | N-[1-(2-chloroethyl)-4-piperidinyl]-1-[(4-fluorophenyl)methyl]-1H-benzimidazol-2-amine | ClCCN1CCC(CC1)NC1=NC2=C(N1CC1=CC=C(C=C1)F)C=CC=C2 | C21H24ClFN4
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | 2-propanone | CC(C)=O | C3H6O
product | N-[1-[2-[(2-benzoxazolyl)thio]ethyl]-4-piperidinyl]-1-[(4-fluorophenyl)methyl]-1H-benzimidazol-2-amine | 50% | O1C(=NC2=C1C=CC=C2)SCCN2CCC(CC2)NC2=NC1=C(N2CC2=CC=C(C=C2)F)C=CC=C1 | C28H28FN5OS
